US07772226B2
(c) t-Butyl 4-[4-(t-butyldiphenylsilanyloxymethyl)-1-(2-butynyl)-5-methylsulfanylcarbonimidoyl-1H-imidazol-2-yl]piperazine-1-carboxylate
1.23 g of trimethyloxonium tetrafluoroborate was added to a 100 ml dichloromethane solution of 4.351 g of t-butyl 4-[4-(t-butyldiphenylsilanyloxymethyl)-1-(2-butynyl)-5-thiocarbamoyl-1H-imidazol-2-yl]piperazine-1-carboxylate, and the mixture was stirred at room temperature for 15 hours. 300 ml of ethyl acetate was added to the solution, and the organic layer was washed successively with 100 ml of a saturated sodium bicarbonate solution and 100 ml a saturated ammonium chloride solution. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure to give 4.439 g of the title compound.

reactant | trimethyloxonium tetrafluoroborate | 1.23 g | F[B-](F)(F)F.C[O+](C)C
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | t-butyl 4-[4-(t-butyldiphenylsilanyloxymethyl)-1-(2-butynyl)-5-thiocarbamoyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 4.351 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1N=C(N(C1C(N)=S)CC#CC)N1CCN(CC1)C(=O)OC(C)(C)C | C34H45N5O3SSi
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-[4-(t-butyldiphenylsilanyloxymethyl)-1-(2-butynyl)-5-methylsulfanylcarbonimidoyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 4.439 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1N=C(N(C1C(=N)SC)CC#CC)N1CCN(CC1)C(=O)OC(C)(C)C | C35H47N5O3SSi
